US07348359B2
C. 3-[3-(2-Ethoxy-3,5-diisopropyl-phenyl)-1H-indazol-5-yl]-but-2-enoic acid
A solution of 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-1H-indazol-5-yl]-but-2-enoic acid methyl ester in 2 ml of methanol and 2 ml of 1N NaOH solution was heated to 60° C. for 3 h, then cooled and brought to pH 7 with 1N HCl. The reaction mixture was extracted with ethyl acetate (2×10 mL), and the organic layers were dried over MgSO4 and evaporated to a residue. The residue was purifed by silica gel chromatography (50% ethyl acetate in hexanes) to give a white solid (6.1 mg, 10%).

reactant | 3-[3-(2-ethoxy-3,5-diisopropyl-phenyl)-1H-indazol-5-yl]-but-2-enoic acid methyl ester | COC(C=C(C)C=1C=C2C(=NNC2=CC1)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC)=O | C26H32N2O3
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | NaOH | 1N, 2 ml | [OH-].[Na+]
product | 3-[3-(2-Ethoxy-3,5-diisopropyl-phenyl)-1H-indazol-5-yl]-but-2-enoic acid | 6.1 mg, 10% | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=NNC2=CC=C(C=C12)C(=CC(=O)O)C | C25H30N2O3
